US06995144B2
3-[4-[2-[2-(Trifluoromethyl)phenyl]acetyl]piperidino]methyl-1H-pyrazin-2-one
After adding 3 ml of 4N hydrogen chloride/ethyl acetate to 249 mg of 1-[1-(3-tert-butoxy-2-pyrazinylmethyl)piperidin-4-yl]-2-[2-(trifluoromethyl)phenyl]ethanone while cooling on ice, the mixture was stirred for 30 minutes. A 2N sodium hydroxide solution was added to the reaction solution for neutralization, and extraction was performed with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Diethyl ether was added to the residue and the mixture was filtered to obtain the title compound (155 mg, 71% yield).

reactant | hydrogen chloride ethyl acetate | 4N, 3 ml | Cl.C(C)(=O)OCC
reactant | 1-[1-(3-tert-butoxy-2-pyrazinylmethyl)piperidin-4-yl]-2-[2-(trifluoromethyl)phenyl]ethanone | 249 mg | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)C(CC1=C(C=CC=C1)C(F)(F)F)=O | C23H28F3N3O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[4-[2-[2-(Trifluoromethyl)phenyl]acetyl]piperidino]methyl-1H-pyrazin-2-one | 155 mg, 71% yield | FC(C1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC=1C(NC=CN1)=O)(F)F | C19H20F3N3O2
